US05563157
3.1 Synthesis of (E)-2-(Fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester
Combine (Z)-2-bromo-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester (1.00 g, 1.6 mmol), furan-2-boronic acid (0.27 g, 2.4 mmol), and cesium carbonate (1.00 g, 3.2 mmol) in toluene (15 mL). Sparge with nitrogen for 15 minutes. Add tetrakis(triphenylphosphine)palladium(0) (50 mg). Heat to 90° C. After 3 days, partition the reaction mixture between ethyl acetate and water. Separate the layers. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a reside. Chromatograph the residue on silica gel eluting with 15% diethyl ether/hexane to give the title compound.

reactant | (Z)-2-bromo-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | 1.6 mmol, 1.00 g | Br\C(\C(=O)OC(C)(C)C)=C/C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C25H24BrCl2NO6S
reactant | furan-2-boronic acid | 2.4 mmol, 0.27 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 3.2 mmol, 1.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethyl ether hexane | C(C)OCC.CCCCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(Fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | O1C(=CC=C1)/C(/C(=O)OC(C)(C)C)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C29H27Cl2NO7S
